* Spice netlister for gnetlist
V2 in 0 dc 0 ac 1
V1 4 0 DC 3.3V
L1 in 4 27n
C1 1 2 470p
C4 0 out 3.3p
C3 0 3 8.2p
C2 0 2 3.3p
L4 3 out 22n
L3 2 3 22n
L2 in 1 6.2n
.END
